US04971982
245 mg of 3,4-dihydro-2,2-dimethyl-6-nitro-4-(2-pyridyl)-2H-1-benzopyran were dissolved in 5 ml of dichloromethane at room temperature and 149 mg of m-chloroperbenzoic acid were added. After stirring at room temperature for 3 days further m-chloroperbenzoic acid was added until starting material could no longer be detected by thin-layer chromatography. The mixture was washed in succession with sodium bisulphite solution, sodium bicarbonate solution and sodium chloride solution, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using 4% (v/v) ethanol/dichloromethane for the elution and the resulting foam was triturated with n-hexane to give 80 mg of 2-(3,4-dihydro-2,2-dimethyl-6-nitro-2H-1-benzopyran-4-yl)pyridine N-oxide of melting point 116-119° C.

reactant | 3,4-dihydro-2,2-dimethyl-6-nitro-4-(2-pyridyl)-2H-1-benzopyran | 245 mg | CC1(OC2=C(C(C1)C1=NC=CC=C1)C=C(C=C2)[N+](=O)[O-])C | C16H16N2O3
reactant | m-chloroperbenzoic acid | 149 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-(3,4-dihydro-2,2-dimethyl-6-nitro-2H-1-benzopyran-4-yl)pyridine N-oxide | 80 mg | CC1(OC2=C(C(C1)C1=[N+](C=CC=C1)[O-])C=C(C=C2)[N+](=O)[O-])C | C16H16N2O4
